US09108905B2
(E)-ethyl 3-(3-chloro-4-fluorophenyl)-2-methylacrylate
3-Chloro-4-fluorobenzaldehyde (10 g, 63.1 mmol) was dissolved in 300 mL toluene. (Carboethoxyethylidene)triphenylphosphorane (25 g, 69.4 mmol) was added and the mixture was heated to reflux overnight. The solution was cooled, diluted with hexanes and the solid was filtered. The filtrate was evaporated in vacuo, and the residue was dissolved in ether and filtered through a plug of silica using ether as eluent. The solvent was evaporated in vacuo to afford the title compound (15.55 g) as a semi solid. 1H NMR (300 MHz, CDCl3) δ ppm 7.56 (s, 1H), 7.44 (m, 1H), 7.23-7.32 (m, 1H), 7.16 (m, 1H), 4.28 (q, J=7.12 Hz, 2H), 2.09 (d, J=1.36 Hz, 3H), 1.35 (t, J=7.36 Hz, 3H). MS (DCI+) 243 (M+H).

reactant | 3-Chloro-4-fluorobenzaldehyde | 63.1 mmol, 10 g | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | (Carboethoxyethylidene)triphenylphosphorane | 69.4 mmol, 25 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-ethyl 3-(3-chloro-4-fluorophenyl)-2-methylacrylate | 15.55 g | ClC=1C=C(C=CC1F)/C=C(/C(=O)OCC)\C | C12H12ClFO2
